US08686152B2
To a solution of 4-(4-cyclohexylcarbamoyl-piperidin-4-ylmethyl)-benzoic acid methyl ester (3.32 mmol; 1.19 g) in DMF (50 mL) was added (S)-2-tert-butoxycarbonylamino-3-thiophen-2-yl-propionic acid (3.32 mmol; 0.90 g), N,N-diisopropyl-N-ethylamine (6.64 mmol; 1.18 mL) and HBTU (4.32 mmol; 1.64 g), and the resulting mixture was stirred at room temperature overnight. Ethyl acetate (150 mL) was added, and the resulting solution was washed with a 1H hydrochloric acid solution (2×50 mL), and brine (50 mL). The organic phase was dried over magnesium sulfate, filtered, and evaporated. The residue was purified via flash column chromatography (eluent gradient: 0 to 10% methanol in dichloromethane) and the desired fractions were combined and evaporated to yield 4-[1-(2-(S)-tert-butoxycarbonylamino-3-thiophen-2-yl-propionyl)-4-cyclohexylcarbamoyl-piperidin-4-ylmethyl]-benzoic acid methyl ester. MS (ESI) m/z 612.13 [M+H]+.

reactant | 4-(4-cyclohexylcarbamoyl-piperidin-4-ylmethyl)-benzoic acid methyl ester | 3.32 mmol, 1.19 g | COC(C1=CC=C(C=C1)CC1(CCNCC1)C(NC1CCCCC1)=O)=O | C21H30N2O3
reactant | (S)-2-tert-butoxycarbonylamino-3-thiophen-2-yl-propionic acid | 3.32 mmol, 0.90 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)CC=1SC=CC1 | C12H17NO4S
reactant | N,N-diisopropyl-N-ethylamine | 6.64 mmol, 1.18 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | HBTU | 4.32 mmol, 1.64 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | Ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
product | 4-[1-(2-(S)-tert-butoxycarbonylamino-3-thiophen-2-yl-propionyl)-4-cyclohexylcarbamoyl-piperidin-4-ylmethyl]-benzoic acid methyl ester | COC(C1=CC=C(C=C1)CC1(CCN(CC1)C([C@H](CC=1SC=CC1)NC(=O)OC(C)(C)C)=O)C(NC1CCCCC1)=O)=O | C33H45N3O6S
